US09212190B2
Sodium hydride (80 mg, 2.00 mmol, 4.83 equiv, 60% dispersion in mineral oil) was treated with trans-4-(dimethylamino)cyclohexan-1-ol (80 mg, 0.56 mmol, 1.35 equiv) in 10 mL of distilled THF for 30 min at 0° C. under nitrogen. Then a solution of tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate (130 mg, 0.41 mmol, 1.00 equiv) in 3 mL of THF was added and stirred at room temperature for 12 hours. After cooling to 0° C., the reaction was quenched with water and extracted with 3×30 mL of ethyl acetate. The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (4:1) to give 140 mg (80%) of tert-butyl N-[2-(4-[[4-(dimethylamino)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate as a white solid. MS (ES): m/z 421 (M+H)+.

reactant | Sodium hydride | 2.00 mmol, 80 mg, 4.83 equiv | [H-].[Na+]
reactant | trans-4-(dimethylamino)cyclohexan-1-ol | 0.56 mmol, 80 mg, 1.35 equiv | CN([C@@H]1CC[C@H](CC1)O)C | C8H17NO
reactant | tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate | 0.41 mmol, 130 mg, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O | C13H16ClN3O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[2-(4-[[4-(dimethylamino)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate | 140 mg, 80% | CN(C1CCC(CC1)OC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O)C | C21H32N4O3S
